US07683073B2
After 4.0 g of 5-nitro-phthalimide were mixed with 5.74 g of potassium carbonate thoroughly, the resulting mixture was poured into a 25 mL flask followed by adding 6.6 mL of chloroacetone, and heated to 90-110° C. (a reflux condensing tube was needed to be equipped on the flask, the system was protected with argon). After the reaction was conducted for 3-4 hr, excess of chloroacetone was removed under a reduced pressure, into the residue was added a great deal of water, then filtrated with Buchner's filter. The resulting solid was washed twice with 10 ml of 10% NaOH, and 5-6 times with water respectively, dried in vacuum to obtain 5-nitro-N-(2-carbonyl-propyl)-phthalimide;

reactant | 5-nitro-phthalimide | 4.0 g | [N+](=O)([O-])C1=CC=C2C(C(=O)NC2=O)=C1 | C8H4N2O4
reactant | potassium carbonate | 5.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 6.6 mL | ClCC(C)=O | C3H5ClO
product | 5-nitro-N-(2-carbonyl-propyl)-phthalimide | [N+](=O)([O-])C1=CC=C2C(C(=O)N(C2=O)CC(C)=C=O)=C1 | C12H8N2O5
